US05606063
Dissolve 3-bromo-5-ethylaniline (4.7g, 23.5mmol) in methanol (100mL) and add diethylacetylene dicarboxylate (5.5mL) at room temperature. Reflux for 10 hours and cool to room temperature. Evaporate the solvent in vacuo and add to diphenylether (100mL) at 250° C. Stir for 15 minutes and let cool to room temperature. Add hexane (500mL) and filter the precipitate. Purify by silica gel chromatography to give 5-ethyl-7-bromo-4-oxo-1,4-dihydroquinoline-2-carboxylic acid, ethyl ester

reactant | 3-bromo-5-ethylaniline | 23.5mmol, 4.7g | BrC=1C=C(N)C=C(C1)CC | C8H10BrN
reactant | diethylacetylene dicarboxylate | 5.5mL | C(C)OC(=O)C#CC(=O)OCC | C8H10O4
solvent | methanol | 100mL | CO | CH4O
product | 5-ethyl-7-bromo-4-oxo-1,4-dihydroquinoline-2-carboxylic acid, ethyl ester | C(C)C1=C2C(C=C(NC2=CC(=C1)Br)C(=O)OCC)=O | C14H14BrNO3
